US07547680B2
2-[3-(4-Hydroxybutoxy)-5-phenylbenzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole
2-Amino-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-1H-benzimidazole (0.20 g) and 3-(4-acetoxybutoxy)-5-phenylbenzaldehyde (0.19 g) were suspended in tetrahydrofuran (3 mL), and the mixture was stirred at room temperature for 13 hours. To the reaction mixture was added sodium triacetoxyborohydride (0.21 g), and the mixture was stirred at room temperature for 24 hours. After adding water to the reaction mixture, the mixture was concentrated under reduced pressure. The obtained residue was dissolved in methanol (2 mL). To the reaction mixture was added 5 mol/L aqueous sodium hydroxide solution (0.5 mL), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added acetic acid (1 mL), and the mixture was concentrated under reduced pressure. The obtained residue was purified by preparative reverse phase column chromatography (Shiseido CAPSELL PAC C18UG80, 5 μm, 20×50 mm, flow rate 30 mL/minutes linear gradient, water/methanol=70/30-10/90) to give the title compound (0.08 g).

reactant | 2-Amino-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-1H-benzimidazole | 0.20 g | NC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)C=CC=C2 | C18H21N3O7
reactant | 3-(4-acetoxybutoxy)-5-phenylbenzaldehyde | 0.19 g | C(C)(=O)OCCCCOC=1C=C(C=O)C=C(C1)C1=CC=CC=C1 | C19H20O4
reactant | sodium triacetoxyborohydride | 0.21 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 2-[3-(4-Hydroxybutoxy)-5-phenylbenzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole | 0.08 g | OCCCCOC=1C=C(CNC2=NC3=C(N2[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=CC=C3)C=C(C1)C1=CC=CC=C1 | C29H33N3O6
